US04851526
1-Cyclohexylmethyl-3-[(4-nitrophenoxy)methyl]azetidine
In a manner similar to Preparation 2, react 1-cyclohexylmethyl-3-azetidinemethanol with 1-fluoro-4-nitrobenzene to obtain the title compound.

reactant | 1-cyclohexylmethyl-3-azetidinemethanol | C1(CCCCC1)CN1CC(C1)CO | C11H21NO
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-Cyclohexylmethyl-3-[(4-nitrophenoxy)methyl]azetidine | C1(CCCCC1)CN1CC(C1)COC1=CC=C(C=C1)[N+](=O)[O-] | C17H24N2O3
